US05614548
(±)-3-hexadecylthio-2-ethoxy-N,N-dimethyl-N-β-hydroxyethyl-1-propyl ammonium bromide
This product was prepared in an analogous manner to that of (±)-3-hexadecylthio-2-methoxy-N, N-dimethyl-N-β-hydroxyethyl-1-propyl ammonium bromide from 2.2 grams (0.005 mole) of (±)-1-hexadecylthio-2-ethoxy-3-bromopropane and 0.15 milliliter (0.006 mole) of N,N-dimethylaminoethanol to give 0.775 milligram (30%) of product, (mp 112°-113° Centigrade). 1H-NMR (CDCl3): delta, 0.87(t, 3H, terminal methyl), 1.2-1.6[m, 31H, (CH2)14, CH3 --CH2 --O], 2.58(m, 2H, S--CH2), 2.7-2.9(m, 2H, CH2 --S), 3.48[s, 6H, N(CH3)2 ], 3.9-4.3(m, 9H, CH, CH2 --N--CH2 --CH2 --OH, CH3 --CH2 --O). Anal. (C25H54NO2SBr) C,H,N.

reactant | (±)-3-hexadecylthio-2-methoxy-N, N-dimethyl-N-β-hydroxyethyl-1-propyl ammonium bromide | [Br-].C(CCCCCCCCCCCCCCC)SCC(C[N+](CCO)(C)C)OC
reactant | (±)-1-hexadecylthio-2-ethoxy-3-bromopropane | 0.005 mole, 2.2 grams | C(CCCCCCCCCCCCCCC)SCC(CBr)OCC | C21H43BrOS
reactant | N,N-dimethylaminoethanol | 0.006 mole, 0.15 milliliter | CN(C)CCO | C4H11NO
product | (±)-3-hexadecylthio-2-ethoxy-N,N-dimethyl-N-β-hydroxyethyl-1-propyl ammonium bromide | 0.775 milligram, 30% | [Br-].C(CCCCCCCCCCCCCCC)SCC(C[N+](CCO)(C)C)OCC | InChI=1S/C25H54NO2S.BrH/c1-5-7-8-9-10-11-12-13-14-15-16-17-18-19-22-29-24-25(28-6-2)23-26(3,4)20-21-27;/h25,27H,5-24H2,1-4H3;1H/q+1;/p-1
